* c:\users\user\desktop\esim\zerocrossing\zerocrossing.cir

.include lm_741.sub
x1 ? net-_c1-pad1_ net-_r1-pad2_ net-_x1-pad4_ ? clk_in net-_x1-pad7_ ? lm_741
v2 gnd net-_x1-pad4_  dc 5
r2  net-_r1-pad2_ clk_in 12k
r1  gnd net-_r1-pad2_ 10k
r3  net-_c1-pad1_ clk_in 10k
c1  net-_c1-pad1_ gnd 1u
* u1  clk_in plot_v1
* u3  clk_in net-_u2-pad1_ adc_bridge_1
* u2  net-_u2-pad1_ net-_u2-pad2_ aishwarya_frequencydivider
* u4  net-_u2-pad2_ clk_out dac_bridge_1
* u5  clk_out plot_v1
v1 net-_x1-pad7_ gnd  dc 5
a1 [clk_in ] [net-_u2-pad1_ ] u3
a2 [net-_u2-pad1_ ] [net-_u2-pad2_ ] u2
a3 [net-_u2-pad2_ ] [clk_out ] u4
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             aishwarya_frequencydivider, NgSpice Name: aishwarya_frequencydivider
.model u2 aishwarya_frequencydivider(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 1000e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk_in) v(clk_out)+6
.endc
.end
